US08420816B2
STEP B: 4-(((2R,3R)-1-(cyclopentylamino)-3-methyl-1-oxopentan-2-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid
To crude 1-tert-butyl 3-methyl 4-(((2R,3R)-1-(cyclopentylamino)-3-methyl-1-oxopentan-2-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-1,3-dicarboxylate was added MeOH (1 mL) and aqueous NaOH (12N, 2mL). The reaction mixture was stirred at 53° C. for 16 h and then purified via preparative mass trigger LC-MS (AcCN/H2O, 5-90%). The fractions were collected, concentrated, and dried in vacuo to afford the title compound. [M+H] calc'd for C20H28N4O3, 373; found, 373.7.

reactant | 1-tert-butyl 3-methyl 4-(((2R,3R)-1-(cyclopentylamino)-3-methyl-1-oxopentan-2-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-1,3-dicarboxylate | C1(CCCC1)NC([C@@H]([C@@H](CC)C)NCC1=C2C(=NC=C1)N(C=C2C(=O)OC)C(=O)OC(C)(C)C)=O | C26H38N4O5
reactant | NaOH | 12N, 2mL | [OH-].[Na+]
solvent | MeOH | 1 mL | CO | CH4O
product | 4-(((2R,3R)-1-(cyclopentylamino)-3-methyl-1-oxopentan-2-ylamino)methyl)-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | C1(CCCC1)NC([C@@H]([C@@H](CC)C)NCC1=C2C(=NC=C1)NC=C2C(=O)O)=O | C20H28N4O3
